US08232307B2
(R)-Dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine dihydrochloride
HCl (2.1 mmol, 2 M solution in Et2O) was dropwise added to a solution of (R)-dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine (1 mmol) in ethyl acetate. The reaction mixture was stirred at room temperature for 30 min and then the solvent was concentrated off. The resulting solid was suspended in Et2O and concentrated, in order to remove excess of HCl. This operation was done for three times, to give the title product (white solid, 98% yield).

reactant | HCl | 2.1 mmol, 2 M | Cl | ClH
reactant | (R)-dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine | 1 mmol | CN([C@@H]1CCC2=CC=C(C=C12)C=1C(=NN(C1C)C)C)C | C17H23N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-Dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine dihydrochloride | 98% yield | Cl.Cl.CN([C@@H]1CCC2=CC=C(C=C12)C=1C(=NN(C1C)C)C)C | InChI=1S/C17H23N3.2ClH/c1-11-17(12(2)20(5)18-11)14-7-6-13-8-9-16(19(3)4)15(13)10-14;;/h6-7,10,16H,8-9H2,1-5H3;2*1H/t16-;;/m1../s1
